US03947473
A solution of 26.4 g. (0.1 mol.) of (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman in 200 ml. of dimethylsulfoxide was rapidly stirred as 32.5 g. (0.5 mol.) of granular KCN was added by sifting so that a uniformly dispersed suspension was obtained. The resulting mixture was cooled to 15°C. as 47.0 ml. of 12N aqueous H2SO4 was added over 1.25 hours as the internal temp. was maintained at 20°C. Tlc at this point showed a major, slower-running spot in addition to traces of starting material. The material was poured into diethylether and H2O. The ether solutions were washed with water and brine, dried over NaSO4 and stripped of solvent to yield (±)-2-cyano-4-(5-acetoxy-2-hydroxy-3,4,6-trimethylphenyl)butan-2-ol as a gum.

reactant | (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman | 0.1 mol | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)O)C | C15H20O4
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | KCN | 0.5 mol | [C-]#N.[K+]
reactant | H2SO4 | 12N | OS(=O)(=O)O | H2O4S
solvent | H2O | O | H2O
solvent | diethylether | C(C)OCC | C4H10O
product | (±)-2-cyano-4-(5-acetoxy-2-hydroxy-3,4,6-trimethylphenyl)butan-2-ol | C(#N)C(C)(CCC1=C(C(=C(C(=C1C)OC(C)=O)C)C)O)O | C16H21NO4
